US04868271
p-Phenoxybenzoyl chloride (36.77 g, 0.158 mole) was added at room temperature to a stirred solution of hexamethylene diamine (8.75 g, 0.075 mole) in DMAc (230 mL). The temperature of the reaction mixture rose to about 75° C. and a white precipitate formed. After standing overnight the mixture was heated at 100° C. for 1 hour, allowed to cool then poured into a stirred mixture of 200 mL sodium hydroxide (1N) and water (1 L). The product 1,6-bis-(4-phenoxybenzamido)-n-hexane (28.3 g, 74% yield) was recrystallized from a mixture of 200 mL denatured alcohol and 150 mL DMAc, filtered, washed with denatured alcohol, and dried under vacuum at 140° C. for 6 hours. The DSC purity was 99.91%, mp 183°-184.3° C.

reactant | p-Phenoxybenzoyl chloride | 0.158 mole, 36.77 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | hexamethylene diamine | 0.075 mole, 8.75 g | NCCCCCCN | C6H16N2
reactant | sodium hydroxide | 1N, 200 mL | [OH-].[Na+]
reactant | water | 1 L | O | H2O
solvent | DMAc | 230 mL | CC(=O)N(C)C | C4H9NO
solvent | DMAc | 150 mL | CC(=O)N(C)C | C4H9NO
product | 1,6-bis-(4-phenoxybenzamido)-n-hexane | 28.3 g, 74% yield | O(C1=CC=CC=C1)C1=CC=C(C(=O)NCCCCCCNC(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C=C1 | C32H32N2O4
